.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)


*Rin base 0 100
*R1 base 0 85k
*R2 base 0 20k
V0 base 0 0v

* gain stage
Q1 coll base 0 BC547A

Rc 0 coll 0.7k

* output stage
Q2 0 coll out BC557A
Rout out 0 200

* load
*RL out 0 8
Vo out 0 0 ac 1.0 sin(0 1 1k)

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



* time analysis
*tran 1e-5 1e-2

* frequency analysis
ac dec 10 1 100MEG



*output impedance in kohm

echo "************************"
echo "* output impedance ohm *"
echo "************************"
*print v(out)[40] vo#branch[40]
print v(out)[40]/vo#branch[40]/(-1)

let Zo=v(out)[40]/vo#branch[40]/(-1)
let real=Re(Zo)
let imag=Im(Zo)
let absl=abs(Zo)
echo "outputZ_TAB"
echo "Zo = $&real + $&imag j"
echo "|Zo| = $&absl"
echo "outputZ_END"



*need a different setup to measure output impedance

quit
.endc 

